US07163940B2
To a cold (−78° C.) solution of tetrahydro-2-(2-propynyloxy)-2H-pyran (0.5 mL, 3.6 mmol) in tetrahydrofuran (10 mL) was added n-butyllithium (2.05 mL, 1.6 M in hexanes, 3.3 mmol) dropwise. The reaction mixture was allowed to warm to 0° C., then cooled to −78° C. A separate solution of 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde (200 mg, 0.73 mmol) in tetrahydrofuran (5 mL) was cooled to 0° C. The alkynyllithium solution was added to the aldehyde solution via canula. The reaction mixture was allowed to warm to room temperature and stirred for 1 hour. Water was added followed by ether. The organic layer was washed with water and brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (2:1 hexanes:ethyl acetate) provided 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-4-(tetrahydro-2H-pyran-2-yloxy)-2-butyn-1-ol (301 mg, 99%) as a mixture of diastereomers. 1H NMR (CDCl3) δ 8.00 (d, 1H), 7.79 (m, 2H), 7.17 (m 3H), 6.99 (m, 1H), 5.79 (s, 1H), 4.81–4.74 (m, 1H), 4.39–4.25 (m, 2H), 3.81 (m, 1H), 3.52 (m, 1H), 3.15 (broad, 1H), 1.90–1.48 (m, 6H); 19F NMR (CDCl3) δ −113.01; MS m/z 437 (M+Na+).

reactant | tetrahydro-2-(2-propynyloxy)-2H-pyran | 3.6 mmol, 0.5 mL | C(C#C)OC1OCCCC1 | C8H12O2
reactant | n-butyllithium | 3.3 mmol, 1.6 M, 2.05 mL | C(CCC)[Li]
reactant | 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde | 0.73 mmol, 200 mg | ClC1=CC=CC=2N1N=C(C2C=O)C2=CC=C(C=C2)F | C14H8ClFN2O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-4-(tetrahydro-2H-pyran-2-yloxy)-2-butyn-1-ol | 301 mg, 99% | ClC1=CC=CC=2N1N=C(C2C(C#CCOC2OCCCC2)O)C2=CC=C(C=C2)F | C22H20ClFN2O3
